US05686486
N-Phenyl-3-[cyclopropyl(5,6,7,8,9, 10-hexahydro-4-hydroxy-2-oxo-2H-cycloocta[b]pyran-3-yl)methyl]-benzenesulfonamide (Formula BBB-5) Refer to Chart BBB
To a solution of 437 mg of N-phenyl-3-(cyclopropylhydroxymethyl)-benzenesulfonamide of Preparation 88 in 100 mL of dichloromethane in the presence of molecular sieves 3A is added 282.5 mg of 4-hydroxy-5,6,7,8,9,10-hexahydro-cycloocta[b]pyran-2-one of formula BBB-followed by 52.0 mg of p-toluenesulfonic acid monohydrate. The reaction is heated at reflux for 1 h and 30 min and then concentrated in vacuo. The resulting oil is dissolved in ethyl acetate and treated with water and 1N aqueous sodium hydroxide. The layers are separated and the organic layer is washed with a second portion of 1N aqueous sodium hydroxide. The combined aqueous layers are treated with 5% aqueous hydrochloric acid and extracted with three portions of ethyl acetate. The combined organics are dried (sodium sulfate) (Na2SO4) and concentrated to afford a yellow oil which is chromatographed over 80 g of silica (eluted with 15% hexane/ethyl acetate) to afford 74 mg of material. This material is rechromatographed as above (elution with 50% hexane/ethyl acetate) to afford 67.3 mg of the title product as a white solid.

reactant | N-phenyl-3-(cyclopropylhydroxymethyl)-benzenesulfonamide | 437 mg | C1(=CC=CC=C1)NS(=O)(=O)C1=CC(=CC=C1)C(O)C1CC1 | C16H17NO3S
reactant | 4-hydroxy-5,6,7,8,9,10-hexahydro-cycloocta[b]pyran-2-one | 282.5 mg | OC=1C2=C(OC(C1)=O)CCCCCC2 | C11H14O3
reactant | p-toluenesulfonic acid monohydrate | 52.0 mg | O.C1(=CC=C(C=C1)S(=O)(=O)O)C
solvent | dichloromethane | 100 mL | ClCCl | CH2Cl2
product | N-Phenyl-3-[cyclopropyl(5,6,7,8,9, 10-hexahydro-4-hydroxy-2-oxo-2H-cycloocta[b]pyran-3-yl)methyl]-benzenesulfonamide | 74 mg | C1(=CC=CC=C1)NS(=O)(=O)C1=CC(=CC=C1)C(C1=C(C2=C(OC1=O)CCCCCC2)O)C2CC2 | C27H29NO5S
